US06218394B1
5-Chloro-1-[1-(6-methylaminocarbonylaminoindan-1-ylmethyl)piperidin-4-yl]-1H-indole, 19a.
To a solution of 1-[1-(6-aminoindan-1-ylmethyl)piperidin-4-yl]-5-chloro-1H-indole, 10h (0.9 g) in dichloromethane (10 mL) was added methylisocyanate (0.2 mL). The mixture was stirred at room temperature for 16 hours. Dichloromethane was evaporated. Upon addition of ethyl acetate the title compound 19a crystallized. The crystalline product was filtered off and dried overnight at 80° C. in vacuo. Yield 0.6 g. mp: 193-195° C. 1H NMR (DMSO-d6): δ 1.70-1.85 (m, 1 H); 1.90-2.35 (m, 7 H); 2.35-2.85 (m, 4 H); 2.65 (d, 3 H); 3.05-3.15 (m, 2 H); 3.25 (quin, 1 H); 4.35-4.45 (m, 1 H); 5.95 (dt, 1 H); 6.45 (d, 1 H); 7.00-7.20 (m, 3 H); 7.50-7.65 (m, 4 H); 8.35 (s, 1 H).

reactant | 1-[1-(6-aminoindan-1-ylmethyl)piperidin-4-yl]-5-chloro-1H-indole | NC1=CC=C2CCC(C2=C1)CN1CCC(CC1)N1C=CC2=CC(=CC=C12)Cl | C23H26ClN3
reactant | methylisocyanate | 0.2 mL | CN=C=O | C2H3NO
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | 5-Chloro-1-[1-(6-methylaminocarbonylaminoindan-1-ylmethyl)piperidin-4-yl]-1H-indole | ClC=1C=C2C=CN(C2=CC1)C1CCN(CC1)CC1CCC2=CC=C(C=C12)NC(=O)NC | C25H29ClN4O
